US08604024B2
Step 46A. (E)-5-(Difluoromethoxy)-N-(8-(hydroxymethyl)-9-methyl-6,7-dihydro-5H-benzo[7]annulen-2-yl)picolinamide
In a manner similar to the procedure of step 3A, (E)-(2-amino-9-methyl-6,7-dihydro-5H-benzo[7]annulen-8-yl)methanol from preparation J was coupled with 5-(difluoromethoxy)picolinic acid from preparation K to afford the titled compound of step 46A. LCMS (M+H)+=375.27, 1H NMR (500 HMz, chloroform-d) δ 9.81 (s, 1H), 8.46 (d, J=2.1 Hz, 1H), 8.32 (dd, J=8.6, 0.5 Hz, 1H), 7.68-7.64 (m, 2H), 7.55 (dd, J=8.1, 2.3 Hz, 1H), 7.18 (d, J=8.1 Hz, 1H), 6.81-6.51 (m, 1H), 4.39 (s, 2H), 2.56-2.51 (m, 2H), 2.14 (s, 3H), 2.10 (quin, J=7.1 Hz, 2H), 2.00-1.96 (m, 2H), 1.89 (br. s., 1H).

reactant | (E)-(2-amino-9-methyl-6,7-dihydro-5H-benzo[7]annulen-8-yl)methanol | NC=1C=CC2=C(/C(=C(\CCC2)/CO)/C)C1 | C13H17NO
reactant | 5-(difluoromethoxy)picolinic acid | FC(OC=1C=CC(=NC1)C(=O)O)F | C7H5F2NO3
product | (E)-5-(Difluoromethoxy)-N-(8-(hydroxymethyl)-9-methyl-6,7-dihydro-5H-benzo[7]annulen-2-yl)picolinamide | FC(OC=1C=CC(=NC1)C(=O)NC=1C=CC2=C(/C(=C(\CCC2)/CO)/C)C1)F | C20H20F2N2O3
